US06759554B2
3-(N-(3-Pyridyl)aminomethyl)pyridine (FIG. 11, Entry 6)
Using the general procedure, 3-bromopyridine (96 μL, 1.0 mmol) was coupled with 3-(aminomethyl)pyridine (153 μL, 1.5 mmol) at 90° C. for 20 h. Purification of the crude product by column chromatography on silica gel using dichloromethane (saturated with ammonia)/methanol (15:1) as eluent afforded the desired product as a light yellow liquid (153 mg, 83% yield). Rf=0.4 (dichloromethane (saturated with ammonia)/methanol=10:1).

reactant | 3-bromopyridine | 1.0 mmol, 96 μL | BrC=1C=NC=CC1 | C5H4BrN
reactant | 3-(aminomethyl)pyridine | 1.5 mmol, 153 μL | NCC=1C=NC=CC1 | C6H8N2
product | 3-(N-(3-Pyridyl)aminomethyl)pyridine | 153 mg, 83% yield | N1=CC(=CC=C1)NCC=1C=NC=CC1 | C11H11N3
